US04649146
A solution of ethyl 2-amino-5-(2-bromoacetyl)-4-thiazolecarboxylate (2.93 g) and 2-amino-3-methyl-pyridine (3.24 g) in 1,2-dimethoxyethane (100 ml) was refluxed for 3 hours. The resulting mixture was evaporated in vacuo. To the residue was added water and ethyl acetate, and the resulting mixture was acidified to pH 0.5 with conc. hydrochloric acid. The separated aqueous layer was adjusted to pH 7.0 with 20% aqueous potassium carbonate and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was recrystallized from a mixture of ethyl acetate and tetrahydrofuran to give 2-(2-amino-4-ethoxycarbonyl-5-thiazolyl)-8-methylimidazo[1,2-a]pyridine (2.4 g). mp 243°-245° C. (dec.)

reactant | ethyl 2-amino-5-(2-bromoacetyl)-4-thiazolecarboxylate | 2.93 g | NC=1SC(=C(N1)C(=O)OCC)C(CBr)=O | C8H9BrN2O3S
reactant | 2-amino-3-methyl-pyridine | 3.24 g | NC1=NC=CC=C1C | C6H8N2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | 2-(2-amino-4-ethoxycarbonyl-5-thiazolyl)-8-methylimidazo[1,2-a]pyridine | 2.4 g | NC=1SC(=C(N1)C(=O)OCC)C=1N=C2N(C=CC=C2C)C1 | C14H14N4O2S
